US06794382B2
5.1: 1-[2-(Trimethylsilyl)ethylcarbonyl]-4-(4-nitrophenyl)piperazine
A solution of 1-(4-nitrophenyl)piperazine (10 g, 48.31 mmol) and 2-(trimethylsilyl)ethyl p-nitrophenyl carbonate (14.4 g, 50.73 mmol) in tetrahydrofuran (220 mL) is refluxed for 3 hours with magnetic stirring and then stirred for 20 hours at room temperature. The reaction mixture is concentrated, the residue is taken up in dichloromethane and the organic phase is washed 4 times with 1N sodium hydroxide and twice with water. The organic phase is then dried over sodium sulphate, filtered and concentrated; the oily residue obtained is used without further purification in the following step (12 g, yield: 71%). 1H NMR (300 MHz, δ ppm) CDCl3: 0.04 (s, 9H), 1.02 (m, 2H), 3.43 (m, 4H), 3.65 (m, 4H), 4.22 (m, 2H), 6.82 (d, 2H), 8.13 (d, 2H).

reactant | 1-(4-nitrophenyl)piperazine | 48.31 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 2-(trimethylsilyl)ethyl p-nitrophenyl carbonate | 50.73 mmol, 14.4 g | C(OCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17NO5Si
reactant | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | 1-[2-(Trimethylsilyl)ethylcarbonyl]-4-(4-nitrophenyl)piperazine | yield: 71% | C[Si](CCC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(C)C | C16H25N3O3Si
